US07169797B2
ethyl 3-(3-iodophenyl)-3-oxopropanoate
Ethyl-3-iodobenzoate (25.4 g, 92.0 mmol) was dissolved in THF (60 mL) and cooled to 0° C. followed by the addition of KOt-Bu (20.6 g, 184 mmol). The mixture was stirred for 15 minutes followed by the addition of ethyl acetate (8.91 g, 101 mmol). The mixture was warmed to ambient temperature, stirred for 2 hours, diluted with aqueous HCl (10%, 200 mL) and extracted with ethyl acetate (2×150 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo to provide the titled compound (29.3 g, 100%).

reactant | Ethyl-3-iodobenzoate | 92.0 mmol, 25.4 g | C(C)OC(C1=CC(=CC=C1)I)=O | C9H9IO2
reactant | KOt-Bu | 184 mmol, 20.6 g | CC(C)(C)[O-].[K+]
reactant | ethyl acetate | 101 mmol, 8.91 g | C(C)(=O)OCC | C4H8O2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | HCl | 200 mL | Cl | ClH
product | ethyl 3-(3-iodophenyl)-3-oxopropanoate | 29.3 g, 100% | IC=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11IO3
